US07247625B2
To a stirred solution of 1-{2-amino-5-[(3-chloro-4-fluorophenyl)amino]-phenyl}propan-1-one (2.40 g, 8.20 mmol) in THF (80 mL) was added 1.0M thienyllithium (32 mL, 32 mmol) slowly at 0° C. over 20 minutes. The reaction was stirred overnight at room temperature, quenched with ammonium chloride solution (sat.), and extracted with ethyl acetate several times. The organic layer was washed with brine and dried over magnesium sulfate. The concentrated crude material was dissolved in THF (40 mL). CDI (2.66 g, 16.40 mmol) was added and the reaction was stirred overnight at room temperature. The reaction solution was partitioned between ammonium chloride solution (sat.) and ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated. Flash silica gel column separation with 30% ethyl acetate/hexane followed by trituration with methylene chloride/ether gave 6-[(3-chloro-4-fluorophenyl)amino]-4-ethyl-4-thien-2-yl-1,4-dihydro-2H-3,1-benzoxazin-2-one as a white solid (0.19 g, 5%). 1H NMR (DMSO-d6): δ 10.22 (s, 1H), 8.20 (s, 1H), 7.53 (dd, J=5.0, 1.3 Hz, 1H), 7.24 (t, J=9.0 Hz, 1H), 7.07 (dd, J=8.5, 2.3 Hz, 1H), 7.0 (m, 3H), 6.92 (dd, J=3.6, 1.3 Hz, 1H), 6.88 (m, 2H), 2.43 (m, 2H), 0.96 (t, J=7.1 Hz, 3H); MS (ESI) m/z 403/405 ([M+H]+); MS (ESI) m/z 401/403 ([M−H]−); HRMS: calcd for C20H16ClFN2O2S, 402.0605. found (ESI+), 403.06762. Anal. calcd for C20H16ClFN2O2S: C, 59.63; H, 4.00; N, 6.95. Found: C, 59.79; H, 4.35; N, 6.55.

reactant | 1-{2-amino-5-[(3-chloro-4-fluorophenyl)amino]-phenyl}propan-1-one | 8.20 mmol, 2.40 g | NC1=C(C=C(C=C1)NC1=CC(=C(C=C1)F)Cl)C(CC)=O | C15H14ClFN2O
reactant | thienyllithium | 32 mmol, 1.0M, 32 mL | S1C(=CC=C1)[Li]
reactant | CDI | 16.40 mmol, 2.66 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 6-[(3-chloro-4-fluorophenyl)amino]-4-ethyl-4-thien-2-yl-1,4-dihydro-2H-3,1-benzoxazin-2-one | 0.19 g, 5% | ClC=1C=C(C=CC1F)NC=1C=CC2=C(C(OC(N2)=O)(C=2SC=CC2)CC)C1 | C20H16ClFN2O2S
